US08114865B2
Preparation of N-[5-(3,5-difluoro-benzenesulfonyl)-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzamide [(I), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=4-(4-methyl-piperazin-1-yl)-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-phenyl]
A mixture of N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzamide (2.4 g, 2.53 mmol), 4N hydrochloric acid in 1,4-dioxane (35 mL), methanol (50 mL) and 1,4-dioxane (15 mL) was stirred at room temperature for 3 hours. The solvents were removed under reduced pressure and the residue dissolved in dichloromethane, washed with water, brine, dried over sodium sulfate and evaporated to dryness. The crude was purified by flash chromatography on silica gel using dichloromethane/acetone 1:1 as the eluant affording the title compound as a pale yellow solid (1.43 g, 80% yield).

reactant | N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzamide | 2.53 mmol, 2.4 g | FC=1C=C(C=C(C1)F)S(=O)(=O)C=1C=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(C1=C(C=C(C=C1)N1CCN(CC1)C)N(C(C(F)(F)F)=O)C1CCOCC1)=O | C51H45F5N6O5S
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | 1,4-dioxane | 35 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 50 mL | CO | CH4O
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | N-[5-(3,5-difluoro-benzenesulfonyl)-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzamide | 1.43 g, 80% yield | FC=1C=C(C=C(C1)F)S(=O)(=O)C=1C=C2C(=NNC2=CC1)NC(C1=C(C=C(C=C1)N1CCN(CC1)C)N(C(C(F)(F)F)=O)C1CCOCC1)=O | C32H31F5N6O5S
